US05700809
3-(4-[4-Methoxyphenyl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
4-(4-Methoxyphenyl)-1,2,3,6-tetrahydropyridine (540 mg, 2.8 mmol) was reacted with 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (500 mg, 2.8 mmol) as in Example 4 to give the title compound (367 mg, 41%) as tan crystals, m.p. 202°-204° C. (iPrOH); (Found: C, 73.51; H, 6.74; N, 12.15. C20H21N3O.0.33 H2O.0.2 C3 H8O requires C, 73.34; H, 6.95; N, 12.45%); δH (DMSO-d6) 2.44 (2H, m, tetrahydropyridinyl CH2), 2.70 (2H, m, tetrahydropyridinyl CH2), 3.10 (2H, m, tetrahydropyridinyl CH2), 3.74 (3H, s, ArOCH3), 3.76 (2H, s, ArCH2N), 6.04 (1H, m, CH=CR), 6.90 (2H, d, J 8.6 Hz, ArH), 7.04 (1H, dd, J 7.7, 4.6 Hz, 5-H), 7.36 (2H, d, J 8.5 Hz, ArH), 7.40 (1H, s, 2-H), 8.06 (1H, d, J 7.7 Hz, 4-H), 8.20 (1H, d, J 4.6 Hz, 6-H), and 11.48 (1H, br s, NH); m/z (CI+, NH3) 320 (M+1)+.

reactant | 4-(4-Methoxyphenyl)-1,2,3,6-tetrahydropyridine | 2.8 mmol, 540 mg | COC1=CC=C(C=C1)C=1CCNCC1 | C12H15NO
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.8 mmol, 500 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | iPrOH | CC(C)O | C3H8O
product | 3-(4-[4-Methoxyphenyl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 367 mg, 41% | COC1=CC=C(C=C1)C=1CCN(CC1)CC1=CNC2=NC=CC=C21 | C20H21N3O
